US04279918
2-(2,4-dinitrobenzylidene)-1-methylpyrrolidine
Stir 7.0 g of 2,4-dinitrotoluene and 9.65 g of 2,2-diethoxy-1-methylpyrrolidine for 5 hours at 40° in 50 ml of benzene. Allow the resulting reaction mixture to cool to ambient temperature. Filter off the precipitate and wash it with a little benzene and hexane to obtain 3.5 g of the title compound (m.p. 188° to 190°) in the form of black-violet crystals.

reactant | 2,4-dinitrotoluene | 7.0 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C | C7H6N2O4
reactant | 2,2-diethoxy-1-methylpyrrolidine | 9.65 g | C(C)OC1(N(CCC1)C)OCC | C9H19NO2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(2,4-dinitrobenzylidene)-1-methylpyrrolidine | 3.5 g | [N+](=O)([O-])C1=C(C=C2N(CCC2)C)C=CC(=C1)[N+](=O)[O-] | C12H13N3O4
